2132-07-24 10:59:00 Physician Attending Progress Note
Chief Complaint: abdominal distension, hyponatremai
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo with ESLD due to ETOH, recent admit with med noncompliance, has
   large volume paracentesis.  At home stopped taking meds, drank beers
   with brother.  In [**Name2 (NI) **], Afebrile.  Got 1000cc of NS.  Got fluid
   restricted, held diuretics.  Going to get large volume tap.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   heparin
   zinc
   cipro
   vitamin C MVI
   nadolol
   lactulose
   protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-24**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 96 (91 - 102) bpm
   BP: 103/63(73) {88/61(67) - 103/64(73)} mmHg
   RR: 20 (13 - 20) insp/min
   SpO2: 96%
                  Total In:
                  60 mL
   PO:
                  60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                     30 mL
   Urine:
   30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, no asteriskis
   Labs / Radiology
   11.1 g/dL
   132 K/uL
   101 mg/dL
   1.0 mg/dL
   18 mEq/L
   5.4 mEq/L
   27 mg/dL
   94 mEq/L
   117 mEq/L
   32.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2132-7-23**]  09:37 PM
                             [**2132-7-24**]  05:08 AM
   WBC
   6.8
   7.8
   Hct
   40.4
   32.0
   Plt
   144
   132
   Cr
   0.8
   1.0
   Glucose
   83
   101
   Other labs: PT / PTT / INR:16.2/32.1/1.4, ALT / AST:58/76, Alk Phos / T
   Bili:516/14.5, Lactic Acid:2.9 mmol/L, LDH:255 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: U/S nonocclusive PV clot.
   CXR: Small lung volumes
   Assessment and Plan
   Worsening ascities:  Likely due to diuretic noncompliance, no evidence
   of infection.  Will to large volume para today.
   hyponatremia:  likely due to relative intravascular hypovolemia
   secondary to cirrhosis.  Fluid restriction for now.
   Cirrhosis:  continue prophylactic meds.
   acidosis:  Likely due to free water overload in part, but does have
   small gap - lactate versus ketones.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-7-24**] 04:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2132-07-25 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2132-7-24**] 02:30 PM
   10.5L fluid taken off. Given 100mg Albumin in divided doses of 25mg
   (received 3 so far)
   SAAG >2.1
 CALLED OUT then called back in for SBPs in 80s.
   Paracentesis labs consistent with SBP. Started on ceftriaxone.
   Liver team requested corticotropin stim test for ?AI. Had random [**Last Name (un) 45**]
   of 37.7 -> 45.2 -> 50.8 with high dose ACTH indicating no AI and no
   steroids were started.
   BP decreased to 70s/40s. 500NS and albumin (2nd dose) were given and
   SBPs up to 80s. UOP throughout was 30mL/hour and pt was asymptomatic.
   Morning Hct was 27.5. In for Hct at 10am and 4pm. No frank blood, no
   melena, green stools.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-7-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-25**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 92 (77 - 102) bpm
   BP: 90/55(63) {78/44(54) - 103/63(73)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,640 mL
                                                                    500 mL
   PO:
                                                                     90 mL
                  TF:
   IVF:
                                                                    550 mL
   Blood products:
                                                                  1,000 mL
                                                                    500 mL
   Total out:
                                                                 10,640 mL
                                                                     50 mL
   Urine:
                                                                    390 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
                                                                 10,250 mL
   Balance:
                                                                 -9,000 mL
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   GEN: NAD, cachectic and jaundiced
   HEENT: Poor dentition. Dry MM. No LAD
   CV: RRR, paradoxical split S1. No MRG
   PULM: CTAB
   ABD: BS+ increasingly distended s/p paracentesis yesterday
 tender
   skin, mildly distended. No hematoma at puncture site. No masses.
   Labs / Radiology
   132 K/uL
   9.7 g/dL
   153
   1.2 mg/dL
   17 mEq/L
   5.0 mEq/L
   29 mg/dL
   90 mEq/L
   119 mEq/L
   27.4 %
   11.0 K/uL
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     RDW
                                   Plt Ct
   [1][**2132-7-25**] 04:33AM
                                    11.0
                                    2.81*
                                    9.7*
                                    27.4*
                                     97
                                    17.4*
                                   72*[1]
   [2][**2132-7-24**] 05:08AM
                                     7.8
                                    3.33*
                                    11.1*
                                    32.0*
                                     96
                                    16.9*
                                    132*
   [3][**2132-7-23**] 09:37PM
                                     6.8
                                    4.09*
                                    14.1
                                    40.4
                                     99*
                                    17.0*
                                    144*
   [4][**2132-7-23**] 03:05PM
                                     7.0
                                    3.97*
                                    13.3*
                                    38.4*
                                     97
                                    16.9*
                                    170#
                                   Ascites
                                  Chemistry
                                    Protein
                                     0.8
                                    Glucose
                                     94
                                      LDH
                                     60
   Albumin: <1.0
     Ascites
                                      WBC
                                    2133
                                      RBC
                                     533
                                     Poly
                                     90
                                     Lymph
                                      3
                                     Mono
                                      7
                                      EOs
                             [**2132-7-23**]  09:37 PM
                             [**2132-7-24**]  05:08 AM
                             [**2132-7-24**]  03:10 PM
                             [**2132-7-24**]  08:00 PM
                             [**2132-7-25**]  04:33 AM
   WBC
   6.8
   7.8
   11.0
   Hct
   40.4
   32.0
   27.4
   Plt
   144
   132
   Cr
   0.8
   1.0
   1.2
   Glucose
   83
   101
   127
   153
   Other labs: PT / PTT / INR:19.1/38.5/1.8, ALT / AST:58/76, Alk Phos / T
   Bili:516/14.5, Lactic Acid:2.9 mmol/L, Albumin:3.1 g/dL, LDH:217 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   1. Ascites: reportedly refractory to diuretic therapy at baseline,
   though this could simply be because of ongoing medical noncompliance
   - Paracentesis pulled off 10.5L fluid w/ elevated white count
   consistent with SBP. On ceftriaxone. Cx pending.
   - therapeutic large volume paracentesis yesterday consistent with SBP
   - Given tenderness of abd, falling HCT, and increasing distension s/p
   [**Last Name (LF) 4623**], [**First Name3 (LF) 178**] have non-contrast CT abd today to evaluate for
   intraperitoneal hemorrhage.
   - will resume diuretics given rapidly increasing ascites and now WNL
   Na.
   - no occlusive portal vein thrombus on ultrasound
   2. Hyponatremia: likely hypervolemic hyponatremia from ongoing fluid
   retention due to cirrhosis and diuretic noncompliance; has been as low
   as 110 on prior admissions
   -  Now WNL
   - fluid restriction to 500 cc
   - hold diuretics until sodium improved
   - no neurologic signs/symptoms to indicate need for hypertonic saline
   - check urine electrolytes, osms; check serum osms
   3. Cirrhosis
   - cont ciprofloxacin for SBP prophylaxis; no signs or symptoms to
   suggest SBP
   - cont nadolol for variceal prophylaxis
   - lactulose to prevent encephalopathy
   4. Hyperkalemia
   - unclear etiology; could be a marker of adrenal insufficiency given
   hyponatremia, though this is hard to appropriately assess in cirrhotics
   - holding spironolactone
   - consider kayexelate
   5. Alcohol abuse/intoxication
   - lorazepam CIWA
   - SW consult
   6. Metabolic acidosis: likely from chronic lactate retention from
   cirrhosis plus alcohol intoxication
   - check VBG and lactate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-7-24**] 04:00 AM
   Prophylaxis:
   DVT:  PPI
   Stress ulcer:  SC Heparin
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: With patient
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);

2132-07-25 11:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2132-7-24**] 02:30 PM
   start
 PARACENTESIS - At [**2132-7-24**] 04:00 PM
   end - removed 1250 ml
   Paracentesis c/w SBP - WBC 11K.
   Hct dropped 40 on [**7-23**] to 32 yesterda and  27 today, but brown stool.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-7-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-7-25**] 08:00 AM
   Other medications:
   hep s/q
   zince
   cipro
   vitamin C
   nadolol
   albumin
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-25**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 90 (77 - 96) bpm
   BP: 84/51(58) {78/44(54) - 97/63(69)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,640 mL
                                                                    960 mL
   PO:
                                                                     90 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    550 mL
   Blood products:
                                                                  1,000 mL
                                                                    800 mL
   Total out:
                                                                 10,640 mL
                                                                    150 mL
   Urine:
                                                                    390 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
                                                                 10,250 mL
   Balance:
                                                                 -9,000 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: has some rebound
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   72 K/uL
   148 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.9 mEq/L
   24 mg/dL
   93 mEq/L
   125 mEq/L
   28.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2132-7-23**]  09:37 PM
                             [**2132-7-24**]  05:08 AM
                             [**2132-7-24**]  03:10 PM
                             [**2132-7-24**]  08:00 PM
                             [**2132-7-25**]  04:33 AM
                             [**2132-7-25**]  09:26 AM
   WBC
   6.8
   7.8
   11.0
   Hct
   40.4
   32.0
   27.4
   28.0
   Plt
   144
   132
   72
   Cr
   0.8
   1.0
   1.2
   1.0
   Glucose
   83
   101
   127
   153
   148
   Other labs: PT / PTT / INR:19.1/38.5/1.8, ALT / AST:33/36, Alk Phos / T
   Bili:306/11.0, Amylase / Lipase:21/32, Lactic Acid:2.9 mmol/L,
   Albumin:3.8 g/dL, LDH:154 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Microbiology: 2133 WBC in paracentesis, 90% Neutraphils
   Assessment and Plan
   Anemia/Hct drop:  Abdomen tender today with some rebound.  Will get abd
   CT to r/o bleed as Hct did drop and he was hypotensive overnight.
   Ascites:  SBP, continue CTX, cx pending.  continue albumin.   Will
   restart diuretics after r/o hemmorrhage
   ETOH cirrhosis:  continue nadolol, lactulose
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-7-24**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2132-07-26 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Cultures grew GNR and budding yeast. Started empirically on capsofungin
   and ceftriaxone
   Ascites re-accumulating
   HCT stabilized
   CT abdomen showed ascites and possible small amount of blood
   heavy diarrhea overnight; checking c. diff toxins
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-7-25**] 07:44 PM
   Caspofungin - [**2132-7-25**] 09:14 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-7-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-26**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 85 (75 - 103) bpm
   BP: 88/58(65) {76/22(35) - 115/64(72)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,657 mL
                  PO:
                                                                    325 mL
                  TF:
   IVF:
                                                                    332 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    600 mL
                                                                     50 mL
   Urine:
                                                                    600 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,057 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   10.7 g/dL
   156 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.6 mEq/L
   25 mg/dL
   96 mEq/L
   127 mEq/L
   29.3 %
   11.1 K/uL
        [image002.jpg]
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     RDW
                                   Plt Ct
   [1][**2132-7-26**] 04:45AM
                                    11.1*
                                    3.03*
                                    10.7*
                                    29.3*
                                     97
                                    17.6*
                                     87*
   [2][**2132-7-25**] 11:30PM
                                    11.3*
                                    3.03*
                                    10.7*
                                    28.9*
                                     95
                                    17.5*
                                     66*
   [3][**2132-7-25**] 03:37PM
   26.0*
   [4][**2132-7-25**] 09:26AM
   28.0*
   [5][**2132-7-25**] 04:33AM
                                    11.0
                                    2.81*
                                    9.7*
                                    27.4*
                                     97
                                    17.4*
                                     72*
                             [**2132-7-23**]  09:37 PM
                             [**2132-7-24**]  05:08 AM
                             [**2132-7-24**]  03:10 PM
                             [**2132-7-24**]  08:00 PM
                             [**2132-7-25**]  04:33 AM
                             [**2132-7-25**]  09:26 AM
                             [**2132-7-25**]  03:37 PM
                             [**2132-7-25**]  11:30 PM
                             [**2132-7-26**]  04:45 AM
   WBC
   6.8
   7.8
   11.0
   11.3
   11.1
   Hct
   40.4
   32.0
   27.4
   28.0
   26.0
   28.9
   29.3
   Plt
   144
   132
   72
   66
   87
   Cr
   0.8
   1.0
   1.2
   1.0
   0.9
   Glucose
   83
   101
   127
   153
   148
   156
   Other labs: PT / PTT / INR:19.1/38.5/1.8, ALT / AST:33/36, Alk Phos / T
   Bili:306/9.8, Amylase / Lipase:21/32, Lactic Acid:2.9 mmol/L,
   Albumin:3.8 g/dL, LDH:154 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   1. Ascites / SBP: reportedly refractory to diuretic therapy at
   baseline, though this could simply be because of ongoing medical
   noncompliance
   - Paracentesis pulled off 10.5L fluid w/ elevated white count
   consistent with SBP. Cx positive for GNR and budding yeast. Started on
   caspo and ceftriaxone
   - CT showed ascites and sm blood. HCT stable now
   - resumed spironolactone given rapidly increasing ascites and now WNL
   Na.
   - no occlusive portal vein thrombus on ultrasound
   2. Hyponatremia: likely hypervolemic hyponatremia from ongoing fluid
   retention due to cirrhosis and diuretic noncompliance; has been as low
   as 110 on prior admissions
   -  Now WNL
   - fluid restriction to 500 cc
   3. Cirrhosis
   - cont nadolol for variceal prophylaxis
   - lactulose to prevent encephalopathy
   4. Hyperkalemia
   - unclear etiology; could be a marker of adrenal insufficiency given
   hyponatremia, though this is hard to appropriately assess in cirrhotics
   - Now resolved
   5. Alcohol abuse/intoxication
   - No s/s withdrawl. Holding CIWA
   - SW consulted
   6. Metabolic acidosis: likely from chronic lactate retention from
   cirrhosis plus alcohol intoxication
   7. Diarrhea: Heavy diarrhea O/n. Unclear if infectious v [**1-5**] lactulose
   - Cdiff pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-7-24**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);

2132-07-26 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo man with ESLD.
   24 Hour Events:
   having diarrhea,
   Hct stable.
   Intermittently hotnsive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-7-25**] 07:44 PM
   Caspofungin - [**2132-7-25**] 09:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   hep s/q
   zinc
   vitamin C
   lactulose
   protonix
   lasix 40
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-26**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 87 (75 - 103) bpm
   BP: 76/50(56) {75/22(35) - 115/64(72)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,657 mL
                  PO:
                                                                    325 mL
                  TF:
   IVF:
                                                                    332 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    600 mL
                                                                     75 mL
   Urine:
                                                                    600 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,057 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Distended, Tender: flanks
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   87 K/uL
   156 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.6 mEq/L
   25 mg/dL
   96 mEq/L
   127 mEq/L
   29.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2132-7-23**]  09:37 PM
                             [**2132-7-24**]  05:08 AM
                             [**2132-7-24**]  03:10 PM
                             [**2132-7-24**]  08:00 PM
                             [**2132-7-25**]  04:33 AM
                             [**2132-7-25**]  09:26 AM
                             [**2132-7-25**]  03:37 PM
                             [**2132-7-25**]  11:30 PM
                             [**2132-7-26**]  04:45 AM
   WBC
   6.8
   7.8
   11.0
   11.3
   11.1
   Hct
   40.4
   32.0
   27.4
   28.0
   26.0
   28.9
   29.3
   Plt
   144
   132
   72
   66
   87
   Cr
   0.8
   1.0
   1.2
   1.0
   0.9
   Glucose
   83
   101
   127
   153
   148
   156
   Other labs: PT / PTT / INR:18.8/52.4/1.7, ALT / AST:33/36, Alk Phos / T
   Bili:306/9.8, Amylase / Lipase:21/32, Lactic Acid:2.9 mmol/L,
   Albumin:3.8 g/dL, LDH:154 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   SBP:  Continue albumin as per hepatology.  continue Ceftriaxone,
   caspofungin.
   Cirrhosis:  Hold Nadolol.
   Diarrhea:  Hold lactulose.
   ETOH cirrhosis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-7-24**] 04:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes